US08008487B2
Preparation of 1-(6-Chloro-pyridin-3-yl)-propan-1-one
To a solution of 6-chloro-N-methoxy-N-methyl nicotinamide (6.0 g, 30 mmol) (produced as disclosed in Perner, R. J. J. Med. Chem. 2003, 46, 5249) in THF (100 mL) was added a 3M solution of ethyl magnesium chloride in ether (15 mL, 45 mmol). The reaction mixture was heated under reflux for 4 hours and then stirred at approximately 25° C. for 14 hours. The reaction mixture was treated with a saturated aqueous solution of ammonium chloride (100 mL) and then extracted with ethyl acetate (2×100 mL). The combined extracts were washed with brine, dried (Na2SO4) and concentrated. The residue was purified by chromatography over silica gel, eluting with 10 percent ethyl acetate in hexane to give product as a white solid. (2.8 g, 60 percent yield).

reactant | 6-chloro-N-methoxy-N-methyl nicotinamide | 30 mmol, 6.0 g | ClC1=NC=C(C(=O)N(C)OC)C=C1 | C8H9ClN2O2
reactant | ethyl magnesium chloride | C(C)[Mg]Cl
reactant | ether | 45 mmol, 15 mL | CCOCC | C4H10O
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-(6-Chloro-pyridin-3-yl)-propan-1-one | 60 percent yield | ClC1=CC=C(C=N1)C(CC)=O | C8H8ClNO
